US04479955
A mixture of 3.0 g of ethyl 4-chloro-7-methyl-1,8-naphthyridine-3-carboxylate (prepared according to U.S. Pat. No. 3,786,043) and 1.42 g of phenylhydrazine in 30 ml of n-butanol is refluxed for 18 hours. The mixture is chilled in an ice bath and filtered to give a solid which is taken up in 50 ml of 1N sodium hydroxide and sufficient water to dissolve. The resulting solution is filtered to remove insoluble, washed with ether and neutralized with 3.0 g of ammonium chloride. The resulting mixture is filtered collecting a solid which is washed with water and dried to yield 7-methyl-2-phenylpyrazolo[4,3-c][1,8]naphthyridin-3(5H)-one hemihydrate, m.p. 305°-308°.

reactant | ethyl 4-chloro-7-methyl-1,8-naphthyridine-3-carboxylate | 3.0 g | ClC1=C(C=NC2=NC(=CC=C12)C)C(=O)OCC | C12H11ClN2O2
reactant | phenylhydrazine | 1.42 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | water | O | H2O
solvent | n-butanol | 30 ml | C(CCC)O | C4H10O
solvent | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
product | 7-methyl-2-phenylpyrazolo[4,3-c][1,8]naphthyridin-3(5H)-one hemihydrate | O.CC=1C=CC=2C=3C(=CNC2N1)C(N(N3)C3=CC=CC=C3)=O.CC=3C=CC=1C=2C(=CNC1N3)C(N(N2)C2=CC=CC=C2)=O | InChI=1S/2C16H12N4O.H2O/c2*1-10-7-8-12-14-13(9-17-15(12)18-10)16(21)20(19-14)11-5-3-2-4-6-11;/h2*2-9H,1H3,(H,17,18);1H2
